* D:\Documents\rgb\ltspice\sim.asc
XM1 N001 N003 0 PMV15ENEA
R1 +12V N001 3
V1 +12V 0 12V
V§PWM N005 0 PULSE(0 3.3 0 0.0001m 0.0001m 0.01m 0.1m)
XM2 N003 N005 0 2N7002NXAK
R2 +12V N003 2k
XM3 N002 N004 0 PMV15ENEA
R3 +12V N002 3
V§PWM1 N004 0 PULSE(0 3.3 0 0.0001m 0.0001m 0.09m 0.1m)
.include ./PMV15ENEA.lib
.tran 0 0.5ms 0 0.000001ms
.include ./2N7002NXAK.lib
.backanno
.end
